US07005443B1
Step C: 2-Methyl-propionic acid 3-(2-aminopropyl)-1H-indazol-5-yl ester
A solution of 2-methyl-propionic acid 3-(2-(9fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5-yl ester (0.16 g, 0.33 mmol) in a 1:4 mixture of piperidine and dimethylformamide (2.5 mL) is stirred at ambient temperature. The reaction mixture is poured into dilute aqueous sodium bicarbonate and the resulting mixture is extracted first with ethyl acetate and then with methylene chloride. The combined organic extracts are dried (MgSO4) and concentrated. The residue is purified by chromatography.

reactant | 2-methyl-propionic acid 3-(2-(9fluorenylmethoxycarbonylamino)propyl)-1H-indazol-5-yl ester | 0.33 mmol, 0.16 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC1=NNC2=CC=C(C=C12)OC(C(C)C)=O)C | C29H29N3O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 2-Methyl-propionic acid 3-(2-aminopropyl)-1H-indazol-5-yl ester | NC(CC1=NNC2=CC=C(C=C12)OC(C(C)C)=O)C | C14H19N3O2
